2166-04-03 07:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: cough, malaise, hypercarbic respiratory failure
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2166-4-2**] 10:30 AM
 MULTI LUMEN - START [**2166-4-2**] 04:13 PM
 NASAL SWAB - At [**2166-4-2**] 06:31 PM
   admit MRSA screen
 SPUTUM CULTURE - At [**2166-4-2**] 10:34 PM
 ARTERIAL LINE - START [**2166-4-2**] 10:38 PM
   - HIT negative, Hep A negative
   - RIJ placed, R radial art line placed
   - DDAVP given for uremic platelet dysfunction
   - LP deferred for increased INR
   - Renal: to get HD [**4-3**] to get back on schedule (T/Th/Sat)
   - ID: stop Zosyn, start meropenem, cont vancomycin, start fluconazole,
   perform LP
   - head CT: neg
   - vit K given
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Meropenem - [**2166-4-2**] 06:38 PM
   Fluconazole - [**2166-4-2**] 06:45 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-4-3**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36
C (96.8
   HR: 77 (75 - 88) bpm
   BP: 106/57(67) {78/34(45) - 106/61(69)} mmHg
   RR: 19 (8 - 20) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 51 kg (admission): 48.5 kg
    CVP: 11 (7 - 20)mmHg
   Total In:
                                                                  6,470 mL
                                                                  1,926 mL
   PO:
   TF:
   IVF:
                                                                  6,470 mL
                                                                  1,926 mL
   Blood products:
   Total out:
                                                                    760 mL
                                                                    320 mL
   Urine:
                                                                    760 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,710 mL
                                                                  1,606 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.26/53/69/25/-3  O2 sat 92%
   PaO2 / FiO2: 173
   Physical Examination
   General Appearance: Thin, Cachectic, moaning, denies pain
   Eyes / Conjunctiva: R eye clouded, no visible pupil, L pupil reactive
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: difficult
   to ausculatate due to phonation, but no obvious wheezes or rhonchi
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Oriented to person,
hospital
, not to date
   Labs / Radiology
   35 K/uL
   6.8 g/dL
   84 mg/dL
   3.7 mg/dL
   22 mEq/L
   3.0 mEq/L
   23 mg/dL
   115 mEq/L
   146 mEq/L
   22.3 %
   6.2 K/uL
        [image002.jpg]
   N 70, B 0, L 21, M 4, E 0, metas 3
                             [**2166-4-2**]  10:31 AM
                             [**2166-4-2**]  01:49 PM
                             [**2166-4-2**]  06:12 PM
                             [**2166-4-2**]  09:57 PM
                             [**2166-4-3**]  01:12 AM
                             [**2166-4-3**]  02:05 AM
                             [**2166-4-3**]  05:49 AM
   WBC
   6.2
   Hct
   24.2
   22.3
   Plt
   35
   Cr
   3.7
   TCO2
   31
   28
   22
   25
   25
   Glucose
   50
   98
   84
   Other labs: PT / PTT / INR:19.0/42.7/1.8, ALT / AST:131/61, Alk Phos /
   T Bili:68/0.2, Lactic Acid:0.6 mmol/L, Albumin:2.3 g/dL, LDH:179 IU/L,
   Ca++:7.3 mg/dL, Mg++:1.5 mg/dL, PO4:5.2 mg/dL
   Ferritin 1238, B12 1409, Hapto 125, 188, TSH 0.82 freeT4 0.82, retic
   5.9 & 5.3, FDP 10-40, G6PD pending
   HCV viral load 548,000; urine legionella neg, serum cryptococcal ag
   neg, Sputum
 upper respiratory secretions
   CT head, non-contrast: 1. No evidence of space-occupying lesion within
   the brain. 2. Fluid opacification of the maxillary sinuses bilaterally,
   right greater than left. Aerosolized secretions in the right maxillary
   sinus could suggest a component of acute sinusitis. 3. Calcifications
   in the right globe. Correlate clinically, with history of prior trauma
   or infection, particularly cytomegalovirus infection given the
   patient's HIV status.
   Assessment and Plan
   60 year old man with history of Hepatitis C, HIV, and recent initiation
   of HD for ATN related renal failure, admitted with productive cough,
   leukocytosis, new transaminitis and relative hypotension, transferred
   to the MICU with hypercarbic respiratory failure.
   .
   # Hypercarbic respiratory failure: Improved.  Original precipitant
   unclear, though perhaps a combination of opiates, uremia, hypotension,
   and underlying cause of AMS. MS somewhat improved since arrival, though
   still altered from his baseline.  Still acidotic, but pH and
   hypercarbia improved.  Patient has received no opiates since arriving
   to the MICU.  Will defer narcan for now.  Infection is in the
   differential, though no clear source at present.  Patient had a
   negative LP on [**3-21**] during his last hospitalization and negative serum
   cryptococcal antigen from yesterday, making CNS infection seem less
   likely.  Head CT also negative.
   - on fluconazole, meropenem, & vancomycin per ID recs; infectious w/u
   as below
   - will discuss ?LP with patient
s ID physician
   [**Name Initial (PRE) **] will minimize supplemental O2 given retained CO2
   - cont. to hold narcotics
   - dialysis today per nephrology
   - Serial ABGs to assess for worsening hypercarbia
   .
   # Altered Mental Status: Etiology unclear with broad differential:
   medication vs. metabolic vs. infectious.
   - Drug: holding narcotics, though doubt this is the cause as the
   patient has chronically been on narcotics
   - Metabolic: patient likely has a chronic respiratory acidosis in the
   setting of COPD, but baseline unclear; HD today
   - ID: repeat sputum, consider LP but will discuss with Dr. [**Last Name (STitle) 377**]
   first.
   .
   # Leukocytosis/Hypotension: Hypotension resolved after aggressive IV
   fluid resuscitation overnight.  No longer requiring pressors.
   Leukocytosis is also much improved, though some of the decrease may be
   dilution.  CXR appears to have improving PNA.  Also on the differential
   would be biliary or abdominal source, though other than fluid filled
   loops of bowel, no obvious infection on CT.  Also has a history of CCY
   so not cholecystitis.  Not an obstructive picture.  Lactate within
   normal limits.  On exam, tunneled line non-tender and clean appearing.
   - ABx coverage with Vanc/Meropenem for presumptive treatment of
   pneumonia with potential hospital associated organisms given relative
   hypotension.  This will also cover any potential intraabdominal /
   biliary source.
   - On fluconazole for possible Cryptococcus, though seems less likely
   now given serum Ag negative and neg CSF 12 days prior
   - Resend induced sputum for cx, PCP
   [**Name Initial (PRE) **] Follow up cultures
   - Fluid boluses to maintain MAP >65,
   - Stool for C. diff pending
   .
   # HIV: HAART therapy on hold since [**Month (only) 1088**], trial of Pendamidine for
   PCP prophylaxis during last hospitalization not well tolerated by
   patient. Last CD 4 count 132 on [**2166-4-1**].
   - f/u ID recs, their assistance appreciated
   .
   # Transaminitis: Much imprpoved.  Unclear etiology
 dehydration vs.
   hypotension vs. worsening HCV vs. drug/toxin, though the later two seem
   less likely.  Denies abdominal pain and abdominal CT scan with no clear
   abnormalities of the biliary system. Tylenol level, etoh, tox screens
   negative.  HCV viral load not significantly elevated from [**2162**] (last
   measured level); HAV IgM neg. HepBsAg and HepBsAb recently negative on
   [**2166-3-18**].
   - Trend LFTs, consider further imaging such as ultrasound w/dopplers if
   transaminases continue to worsen
   .
   # Thrombocytopenia: New this admission, last platelet count 250 on [**3-25**]
   on day of discharge. DDx includes worsening HIV related
   thrombocytopenia, medication related given recent course of ABx though
   this is less likely, or some other hematologic process such as TTP
   given relative associated anemia, though no schistocytes on peripheral
   smear.   HIT Ab negative.  Platelets down again today, but may be
   related to IVF.  Will continue to trend
   - LDH 293/Hapto 125/Bili 0.3
   - Holding sc heparin for now
   - d/c argatroban for now
   - Consider heme consult
   .
   # Anemia: Hct lower than most recent Hct on dischage, though within
   range of patient's previous Hct values.  Was normocytic on admission,
   now microcytic. Iron down from 98 to 11
   - Trend Hct daily
   - Guaiac stools
   - Holding on PRBC transfusion for now, but consider if Hct <25 and
   hypotensive
   - Iron supplementation
   .
   # Hepatitis C  - viral load 548,000
   # Chronic Renal Failure
   - Continue HD as scheduled
 T, Th, Sat
   - Continue Calcium acetate, sevelamer per home dosing
   .
   # COPD
   - Continue Albuterol/Atrovent nebs
   .
   # Chronic Pain
   - Holding narcotics given somnolence
   - No tylenol given LFT abnormalities
   - Continue to follow, will likely need to add back at lower doses when
   patient stabilizes
   .
   # FEN  - clears if alert enough to tolerate.  IVF prn, replete lytes
   .
   # Access: PIV, R tunneled HD line, RIJ ([**4-2**]), R A-line ([**4-2**])
   .
   # PPx: Pneumoboots
   .
   # Code: FULL
   .
   # Dispo: pending clinical improvement
   .
   # HCP is [**Name (NI) **] [**Name (NI) 3849**], patient's sister [**Telephone/Fax (1) 8486**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2166-4-2**] 10:28 AM
   22 Gauge - [**2166-4-2**] 10:29 AM
   Tunneled (Hickman) Line - [**2166-4-2**] 10:30 AM
   Multi Lumen - [**2166-4-2**] 04:13 PM
   Arterial Line - [**2166-4-2**] 10:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2166-04-03 11:47:00 Physician Attending Progress Note
Chief Complaint: Altered Mental Status
   Acute Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2166-4-2**] 10:30 AM
 MULTI LUMEN - START [**2166-4-2**] 04:13 PM
 NASAL SWAB - At [**2166-4-2**] 06:31 PM
   admit MRSA screen
 SPUTUM CULTURE - At [**2166-4-2**] 10:34 PM
 ARTERIAL LINE - START [**2166-4-2**] 10:38 PM
   Argatroban stopped in the setting of HIT Ab--negative
   Dialysis planned for today
   head CT completed--no mass, no lesion, mod sinusitis
   Fluconazole started per ID
   CVL and A-line placed without incident--in the setting of
   hypotension--improved BP with IVF given
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Meropenem - [**2166-4-2**] 06:38 PM
   Fluconazole - [**2166-4-2**] 06:45 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2166-4-3**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.3
   HR: 82 (71 - 88) bpm
   BP: 106/57(67) {78/34(45) - 106/57(67)} mmHg
   RR: 19 (9 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 51 kg (admission): 48.5 kg
   CVP: 13 (7 - 20)mmHg
   Total In:
                                                                  6,470 mL
                                                                  2,416 mL
   PO:
   TF:
   IVF:
                                                                  6,470 mL
                                                                  2,416 mL
   Blood products:
   Total out:
                                                                    760 mL
                                                                    700 mL
   Urine:
                                                                    760 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,710 mL
                                                                  1,716 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.26/53/69/22/-3
   PaO2 / FiO2: 173
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Oriented (to): Swlf, Movement:
   Not assessed, Tone: Not assessed
   Labs / Radiology
   6.8 g/dL
   35 K/uL
   84 mg/dL
   3.7 mg/dL
   22 mEq/L
   3.0 mEq/L
   23 mg/dL
   115 mEq/L
   146 mEq/L
   22.3 %
   6.2 K/uL
        [image002.jpg]
                             [**2166-4-2**]  10:31 AM
                             [**2166-4-2**]  01:49 PM
                             [**2166-4-2**]  06:12 PM
                             [**2166-4-2**]  09:57 PM
                             [**2166-4-3**]  01:12 AM
                             [**2166-4-3**]  02:05 AM
                             [**2166-4-3**]  05:49 AM
   WBC
   6.2
   Hct
   24.2
   22.3
   Plt
   35
   Cr
   3.7
   TCO2
   31
   28
   22
   25
   25
   Glucose
   50
   98
   84
   Other labs: PT / PTT / INR:19.0/42.7/1.8, ALT / AST:131/61, Alk Phos /
   T Bili:68/0.2, Differential-Neuts:70.0 %, Band:0.0 %, Lymph:21.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L, Albumin:2.3 g/dL,
   LDH:179 IU/L, Ca++:7.3 mg/dL, Mg++:1.5 mg/dL, PO4:5.2 mg/dL
   Microbiology: Sputum--oral flora
   Assessment and Plan
   60 yo male with HIV, Hep C--admitted wtih altered mental status and
   concern for multiple potential sources as contributors with narcotic
   impact considered most likely at initial admission but has been slow to
   clear to date.  We appreciate ID input initially suggesting further
   exploration of possible CNS infection and initial head CT showing
   chronic changes.  This has been confounded by persistent hypotension
   despite IVF given and patient had CVL placed and substantial improvment
   in BP overnight.
 HYPOTENSION-
   -Substantial improvement with IVF given
with exploration of home
   history
patient with substantial time of poor po intake and clearly
   hypovolemic now improved with IVF at 7 liters
   -Continue to keep I/O even
 ALTERED MENTAL STATUS (NOT DELIRIUM)-_Source of this is
   multifactorial.  He has old trauma suggested and we have persistent
   renal failure, residual medication effects, possible crypto CNS
   infection as leading possibilities.  He does have LP one week ago with
   negative Crypto and negative serum antigen and some improvement
   although remains with impaired sensorium and persistent confusion.
   -Will continue to attempt to normalize INR
   -Will discuss LP with ID
   -Improvement is likely related to improved ventilation and decreased
   CO2, increased MSO4 metabolism, stabilization of BP with volume
   replacement from this multifactorial source of encephaoloapthy.
   HIV-
   -Hold HAART
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -Improved with decreased sedation
   -Decrease FIO2 as tolerated
   THROMBOCYTOPENIA-
   -HIT negative
   -Follow counts
   -[**Month (only) 60**] be related to HIV/HEP c disease with acute change in the setting
   of 7 liters of IVF
   ICU Care
   Nutrition: PO
   Glycemic Control:
   Lines:
   20 Gauge - [**2166-4-2**] 10:28 AM
   22 Gauge - [**2166-4-2**] 10:29 AM
   Tunneled (Hickman) Line - [**2166-4-2**] 10:30 AM
   Multi Lumen - [**2166-4-2**] 04:13 PM
   Arterial Line - [**2166-4-2**] 10:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2166-04-04 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2166-4-3**] 12:00 PM
   blood cx sent via rij triple lumen
 SPUTUM CULTURE - At [**2166-4-3**] 12:00 PM
   - Dr. [**Last Name (STitle) 377**] felt that LP would be low yeild; AMS likely metabolic vs.
   psych
   - ID feels strongly that LP would be good given that EBV & [**Male First Name (un) 3957**] virus not
   sent last time; they will discuss with Dr. [**Last Name (STitle) 377**]
   - Renal: correct free water deficit, hold on HD, uremia likely not
   contributing to AMS
   - quantitative G6PD mildly elevated at 13.6
   - induced sputum upper respiratory secretions again -> resent
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Meropenem - [**2166-4-2**] 06:38 PM
   Fluconazole - [**2166-4-2**] 06:45 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-4-4**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 75 (71 - 82) bpm
   BP: 106/57(67) {0/0(0) - 0/0(0)} mmHg
   RR: 24 (12 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 51 kg (admission): 48.5 kg
    CVP: 11 (2 - 15)mmHg
   Total In:
                                                                  3,291 mL
                                                                    608 mL
   PO:
                                                                    460 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  2,831 mL
                                                                    248 mL
   Blood products:
   Total out:
                                                                  2,180 mL
                                                                  1,405 mL
   Urine:
                                                                  2,180 mL
                                                                  1,405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,111 mL
                                                                   -797 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Thin, Cachectic, moaning, denies pain
   Eyes / Conjunctiva: R eye clouded, no visible pupil, L pupil reactive
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: CTAB
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Nonfocal
   Labs / Radiology
   32 K/uL
   7.4 g/dL
   93 mg/dL
   4.4 mg/dL
   26 mEq/L
   2.7 mEq/L
   21 mg/dL
   113 mEq/L
   146 mEq/L
   23.7 %
   4.9 K/uL
        [image002.jpg]
                             [**2166-4-2**]  10:31 AM
                             [**2166-4-2**]  01:49 PM
                             [**2166-4-2**]  06:12 PM
                             [**2166-4-2**]  09:57 PM
                             [**2166-4-3**]  01:12 AM
                             [**2166-4-3**]  02:05 AM
                             [**2166-4-3**]  05:49 AM
                             [**2166-4-3**]  03:59 PM
                             [**2166-4-4**]  02:44 AM
   WBC
   6.2
   5.7
   4.9
   Hct
   24.2
   22.3
   23.8
   23.7
   Plt
   35
   40
   32
   Cr
   3.7
   4.1
   4.4
   TCO2
   31
   28
   22
   25
   25
   Glucose
   50
   98
   84
   94
   93
   Other labs: PT / PTT / INR:13.5/28.4/1.2, ALT / AST:131/61, Alk Phos /
   T Bili:68/0.2, Differential-Neuts:70.0 %, Band:0.0 %, Lymph:21.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L, Albumin:2.3 g/dL,
   LDH:179 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   60 year old man with history of Hepatitis C, HIV, and recent initiation
   of HD for ATN related renal failure, admitted with productive cough,
   leukocytosis, new transaminitis and relative hypotension, transferred
   to the MICU with hypercarbic respiratory failure.
   .
   # Hypercarbic respiratory failure: Improved.  Original precipitant
   unclear, though perhaps a combination of opiates, uremia, hypotension,
   and underlying cause of AMS. MS somewhat improved since arrival, though
   still altered from his baseline.  Still acidotic, but pH and
   hypercarbia improved.  Patient has received no opiates since arriving
   to the MICU.  Will defer narcan for now.  Infection is in the
   differential, though no clear source at present.  Patient had a
   negative LP on [**3-21**] during his last hospitalization and negative serum
   cryptococcal antigen from yesterday, making CNS infection seem less
   likely.  Head CT also negative.
   - on fluconazole, meropenem, & vancomycin per ID recs; infectious w/u
   as below
   - will discuss ?LP with patient
s ID physician
   [**Name Initial (PRE) **] will minimize supplemental O2 given retained CO2
   - cont. to hold narcotics
   - Serial ABGs to assess for worsening hypercarbia
   .
   # Altered Mental Status: Etiology unclear with broad differential:
   medication vs. metabolic vs. infectious.
   - Drug: holding narcotics, though doubt this is the cause as the
   patient has chronically been on narcotics
   - Metabolic: patient likely has a chronic respiratory acidosis in the
   setting of COPD, but baseline unclear
   - ID: repeat sputum, per Dr. [**Last Name (STitle) 377**], LP not likely to be positive with
   recent negative (1 wk PTA)
   .
   # Leukocytosis/Hypotension: Hypotension resolved after aggressive IV
   fluid resuscitation overnight.  No longer requiring pressors.
   Leukocytosis is also much improved, though some of the decrease may be
   dilution.  CXR appears to have improving PNA.  Also on the differential
   would be biliary or abdominal source, though other than fluid filled
   loops of bowel, no obvious infection on CT.  Also has a history of CCY
   so not cholecystitis.  Not an obstructive picture.  Lactate within
   normal limits.  On exam, tunneled line non-tender and clean appearing.
   - ABx coverage with Vanc/Meropenem for presumptive treatment of
   pneumonia with potential hospital associated organisms given relative
   hypotension.  This will also cover any potential intraabdominal /
   biliary source.
   - On fluconazole for possible Cryptococcus, though seems less likely
   now given serum Ag negative and neg CSF 12 days prior
   - F/u induced sputum for cx, per PCP
   [**Name Initial (PRE) **] Follow up cultures
   - Fluid boluses to maintain MAP >65,
   - Stool for C. diff pending
   .
   # HIV: HAART therapy on hold since [**Month (only) 1088**], trial of Pendamidine for
   PCP prophylaxis during last hospitalization not well tolerated by
   patient. Last CD 4 count 132 on [**2166-4-1**].
   - f/u ID recs, their assistance appreciated
   .
   # Transaminitis: Much improved.  Unclear etiology
 dehydration vs.
   hypotension vs. worsening HCV vs. drug/toxin, though the later two seem
   less likely.  Denies abdominal pain and abdominal CT scan with no clear
   abnormalities of the biliary system. Tylenol level, etoh, tox screens
   negative.  HCV viral load not significantly elevated from [**2162**] (last
   measured level); HAV IgM neg. HepBsAg and HepBsAb recently negative on
   [**2166-3-18**].
   - Trend LFTs, consider further imaging such as ultrasound w/ dopplers
   if transaminases continue to worsen
   .
   # Thrombocytopenia: Stable. New this admission, last platelet count 250
   on [**3-25**] on day of discharge. DDx includes worsening HIV related
   thrombocytopenia, medication related given recent course of ABx though
   this is less likely, or some other hematologic process such as TTP
   given relative associated anemia, though no schistocytes on peripheral
   smear.   HIT Ab negative.  Platelets down again today, but may be
   related to IVF.  Will continue to trend
   - Holding sc heparin for now
   .
   # Anemia: Stable. Hct lower than most recent Hct on dischage, though
   within range of patient's previous Hct values.  Was normocytic on
   admission, now microcytic. Iron down from 98 to 11
   - Trend Hct daily
   - Guaiac stools
   - Holding on PRBC transfusion for now, but consider if Hct <25 and
   hypotensive
   - Iron supplementation
   .
   # Hepatitis C  - viral load 548,000
   # Chronic Renal Failure
   - Continue HD as scheduled
 T, Th, Sat
   - Continue Calcium acetate, sevelamer per home dosing
   .
   # COPD
   - Continue Albuterol/Atrovent nebs
   .
   # Chronic Pain
   - Holding narcotics given somnolence
   - No tylenol given LFT abnormalities
   - Continue to follow, will likely need to add back at lower doses when
   patient stabilizes
   .
   # FEN  - clears if alert enough to tolerate.  IVF prn, replete lytes
   .
   # Access: PIV, attempt to place PIV #2, R tunneled HD line, pull RIJ
   ([**4-2**]), pull R A-line ([**4-2**])
   .
   # PPx: Pneumoboots
   .
   # Code: FULL
   .
   # Dispo: callout to the floor
   .
   # HCP is [**Name (NI) **] [**Name (NI) 3849**], patient's sister [**Telephone/Fax (1) 8486**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2166-4-2**] 10:28 AM
   Tunneled (Hickman) Line - [**2166-4-2**] 10:30 AM
   Multi Lumen - [**2166-4-2**] 04:13 PM
   Arterial Line - [**2166-4-2**] 10:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2166-04-04 12:23:00 Physician Attending Progress Note
Chief Complaint: Altered Mental Status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2166-4-3**] 12:00 PM
   blood cx sent via rij triple lumen
 SPUTUM CULTURE - At [**2166-4-3**] 12:00 PM
   -Patient currently showing some improved mental status in the setting
   of supportive Rx.
   -Current planning around possible LP with input from ID team now
   conclusively suggesting LP to be done when clinically able to be
   completed.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Meropenem - [**2166-4-2**] 06:38 PM
   Fluconazole - [**2166-4-2**] 06:45 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2166-4-4**] 12:16 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.2
C (97.1
   HR: 76 (71 - 90) bpm
   BP: 126/67(82) {126/67(82) - 126/67(82)} mmHg
   RR: 24 (12 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 51 kg (admission): 48.5 kg
   CVP: 9 (2 - 12)mmHg
   Total In:
                                                                  3,291 mL
                                                                    883 mL
   PO:
                                                                    460 mL
                                                                    540 mL
   TF:
   IVF:
                                                                  2,831 mL
                                                                    343 mL
   Blood products:
   Total out:
                                                                  2,180 mL
                                                                  2,485 mL
   Urine:
                                                                  2,180 mL
                                                                  2,485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,111 mL
                                                                 -1,602 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   32 K/uL
   93 mg/dL
   4.4 mg/dL
   26 mEq/L
   2.7 mEq/L
   21 mg/dL
   113 mEq/L
   146 mEq/L
   23.7 %
   4.9 K/uL
        [image002.jpg]
                             [**2166-4-2**]  10:31 AM
                             [**2166-4-2**]  01:49 PM
                             [**2166-4-2**]  06:12 PM
                             [**2166-4-2**]  09:57 PM
                             [**2166-4-3**]  01:12 AM
                             [**2166-4-3**]  02:05 AM
                             [**2166-4-3**]  05:49 AM
                             [**2166-4-3**]  03:59 PM
                             [**2166-4-4**]  02:44 AM
   WBC
   6.2
   5.7
   4.9
   Hct
   24.2
   22.3
   23.8
   23.7
   Plt
   35
   40
   32
   Cr
   3.7
   4.1
   4.4
   TCO2
   31
   28
   22
   25
   25
   Glucose
   50
   98
   84
   94
   93
   Other labs: PT / PTT / INR:13.5/28.4/1.2, ALT / AST:131/61, Alk Phos /
   T Bili:68/0.2, Differential-Neuts:70.0 %, Band:0.0 %, Lymph:21.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L, Albumin:2.3 g/dL,
   LDH:179 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Microbiology: Induced Sputum--poor sample
   Assessment and Plan
   60 yo male with HIV/HCV and now admit wtih altered mental status in the
   setting of  MSO4 dosing and impaired ventilation and associated
   hypercarbia.  He, in this immune suppressed state, certainly has a
   broad differential for possible sources.  Encouraging is that he has
   shown some improvment in sensorium with possible multifactorial sources
   of encephaoloapthy including hypercarbia, medication effects, renal
   failure, hypernatremia all conspiring and all have shown modest
   improvement with renal failure managed by dialysis.
   1)Altered Mental Status-For treatment for possible sources, by issue,
   will-->
   A)Infection-no clear focal source identified but possible pneumonia
   -Vanco/Meropenem
   -Fluconazole
   -Will defer to ID on final recs for LP in the setting of clinical
   improvement but are moving INR to normal
   B)Renal Failure-
   -Dialysis to continue and likely for Saturday
   C)Medication Effects-
   -Minimize narcotic dosing going forward
   -Avoid sedating medications
   D)Respiratory Failure-
   -Minimize sedating medications
   -Follow exam
   -Bronchodilators to continue
   -Wean O2 as tolerated
   Additional issues to be addressed as defined in the housestaff note of
   this date.
   ICU Care
   Nutrition: po diet and advance
   Glycemic Control:
   Lines:
   20 Gauge - [**2166-4-2**] 10:28 AM
   Tunneled (Hickman) Line - [**2166-4-2**] 10:30 AM
   Multi Lumen - [**2166-4-2**] 04:13 PM
   Arterial Line - [**2166-4-2**] 10:38 PM
   Prophylaxis:
   DVT: OOB to chair
   Stress ulcer: po diet, INR corrected
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes